US06727264B1
3-CHLORO-N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-4-(ISOPROPYLSULFONYL)-2-THIOPHENECARBOXAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-chloro-4-(isopropylsulfonyl)-2-thiophenecarbonyl chloride: ESMS m/e: 596.2 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 3-chloro-4-(isopropylsulfonyl)-2-thiophenecarbonyl chloride | ClC1=C(SC=C1S(=O)(=O)C(C)C)C(=O)Cl | C8H8Cl2O3S2
solvent | THF | C1CCOC1 | C4H8O
product | 3-CHLORO-N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-4-(ISOPROPYLSULFONYL)-2-THIOPHENECARBOXAMIDE | ClC1=C(SC=C1S(=O)(=O)C(C)C)C(=O)NCCCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C29H42ClN3O4S2
